US08030337B2
N-(4-Hydroxy-3-oxo-2,3-dihydro-1H-inden-5-yl)-5-phenylpentanamide
6-Amino-7-hydroxyindan-1-one hydrobromide (50 mg, 0.256 mmol) and 5-phenylvaleric acid (54.8 mg, 0.307 mmol) were dissolved in N,N-dimethylformamide (1.3 mL), diethyl cyanophosphate (45.7 μL, 0.307 mmol) and triethylamine (120 μL, 0.896 mmol) were added, and the mixture was stirred at room temperature for 15 min. The reaction solution was diluted with diethyl ether, washed with water and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane=10/90→40/60) to give the title compound (21.8 mg, yield 26%).

reactant | 6-Amino-7-hydroxyindan-1-one hydrobromide | 0.256 mmol, 50 mg | Br.NC1=CC=C2CCC(C2=C1O)=O
reactant | 5-phenylvaleric acid | 0.307 mmol, 54.8 mg | C1(=CC=CC=C1)CCCCC(=O)O | C11H14O2
reactant | diethyl cyanophosphate | 0.307 mmol, 45.7 μL | P(=O)(OCC)(OCC)C#N | C5H10NO3P
reactant | triethylamine | 0.896 mmol, 120 μL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 1.3 mL | CN(C=O)C | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-(4-Hydroxy-3-oxo-2,3-dihydro-1H-inden-5-yl)-5-phenylpentanamide | 21.8 mg, yield 26% | OC1=C2C(CCC2=CC=C1NC(CCCCC1=CC=CC=C1)=O)=O | C20H21NO3
